US08383669B2
(S)-3-((R)-1-hydroxy-2-methylpropyl)pyrrolidine-1-carboxylic acid t-butyl ester (35.0 g, 144 mmol, 1.0 eq.), triphenylphosphine (41.5 g, 158 mmol, 1.1 eq.), p-chlorophenol (37.0 g, 288 mmol, 2.0 eq.) and 2-methyl-tetrahydrofuran (300 mL) were combined and the vessel purged with nitrogen. Diisopropyl azodicarboxylate (31.2 mL, 1.1 eq.) was added slowly at room temperature over 2 hours. The mixture was then stirred at room temperature overnight. Hexanes (600 mL) were added and the resulting mixture was stirred at room temperature for 30 minutes. The phases were separated and the organic layer was washed with 1.0 M NaOH in water (600 mL), washed with diluted saturated aqueous NaCl (20 mL), then dried over Na2SO4 to yield the crude BOC-protected intermediate. Additional hexanes (50 mL) were added and the resulting mixture was stirred for 30 minutes. Solids were filtered off to yield the crude BOC-protected intermediate as a thick oil, which was then purified by silica gel chromatography (0-10-20% EtOAc in hexanes) to yield (S)-3-[(S)-1-(4-chlorophenoxy)-2-methylpropyl]pyrrolidine-1-carboxylic acid t-butyl ester (5.5 g).

reactant | (S)-3-((R)-1-hydroxy-2-methylpropyl)pyrrolidine-1-carboxylic acid t-butyl ester | 144 mmol, 35.0 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](C(C)C)O | C13H25NO3
reactant | triphenylphosphine | 158 mmol, 41.5 g, 1.1 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-chlorophenol | 288 mmol, 37.0 g, 2.0 eq. | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | Diisopropyl azodicarboxylate | 31.2 mL, 1.1 eq. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | 2-methyl-tetrahydrofuran | 300 mL | CC1OCCC1 | C5H10O
product | (S)-3-[(S)-1-(4-chlorophenoxy)-2-methylpropyl]pyrrolidine-1-carboxylic acid t-butyl ester | 5.5 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](C(C)C)OC1=CC=C(C=C1)Cl | C19H28ClNO3
